US09107916B2
A. (2E)-1-(2,4-Difluorophenyl)-3-(dimethylamino)prop-2-en-1-one
The title compound was prepared in 82% yield from 1-(2,4-difluorophenyl)ethanone and DMF-DMA according to the procedure for the preparation of Example 12, part A. 1H NMR (400 MHz, CDCl3): δ 2.90 (3H, s), 3.11 (3H, s), 5.59-5.62 (1H, m), 6.77-6.83 (1H, m), 6.88-6.93 (m, 1H), 7.75-7.83 (2H, m).

reactant | 1-(2,4-difluorophenyl)ethanone | FC1=C(C=CC(=C1)F)C(C)=O | C8H6F2O
reactant | DMF-DMA | CN(C)C(OC)OC | C5H13NO2
product | (2E)-1-(2,4-Difluorophenyl)-3-(dimethylamino)prop-2-en-1-one | 82% yield | FC1=C(C=CC(=C1)F)C(\C=C\N(C)C)=O | C11H11F2NO
